* C:\Users\JakeBooth\Desktop\Photospectrometer Git's\PhotoSpectrometer-Electrical\V2\Eagle\LTSpice\CurrentSense.asc
R3 N002 N001 2k
XU1 N001 N003 N002 3.3V 0 LM358
V1 3.3V 0 3.3
R4 N003 12V 60k
R5 12V N004 0.05
R6 N004 0 2.5
V2 12V 0 PWL(0 0 1 20)
R1 N003 0 10k
R2 N001 N004 60k
.tran 1
.inc LM358.MOD
.backanno
.end
