* C:\Users\JakeBooth\Desktop\Photospectrometer Git's\PhotoSpectrometer-Electrical\V2\Eagle\LTSpice\Pelt_Driver.asc
M1 N003 N004 0 0 Si7336ADP
L1 N002 N003 100µ
C1 N001 N002 47µ
V1 N001 0 12V
V2 N004 0 PULSE(0 3.3 0 0 0 0.00005 0.0001)
R1 N001 N002 2.5
D1 N003 N001 D
.model D D
.lib C:\Users\JakeBooth\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\JakeBooth\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.01
.backanno
.end
