* C:\Users\JakeBooth\Desktop\Photospectrometer Git's\PhotoSpectrometer-Electrical\V2\Eagle\LTSpice\amp_test.asc
V1 +5 0 5
V2 -5 0 -5
V3 N004 0 SINE(1.55 0.95 2e4)
XU1 N004 N002 +5 -5 N003 NC_01 ADA4807
V4 +2.5 0 2.5
R1 N003 N002 10k
R2 N002 N001 2408
R3 N001 +2.5 201
R4 0 N001 600
R5 N003 0 100k
XU2 N004 N007 +5 -5 N008 NC_02 ADA4807
R10 N008 0 100k
XU3 N005 N006 +5 -5 N006 NC_03 ADA4807
R6 N007 N006 2.7k
R7 N008 N007 10k
R8 +2.5 N005 500
R9 N005 0 1.7k
.tran 1
.lib C:\Users\JakeBooth\Downloads\ADA4807.cir
.backanno
.end
